US06020329
(j) 4-Methoxybenzyl (6R,7R)-3-[(2S,5R)-5-methoxycarbonyltetrahydrofuran-2-yl]-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]ceph-3-em-4-carboxylate
A stirred solution of 2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetic acid (20.1mg) and N,N-diisopropylethylamine (0.0176ml) in dimethylformamide (0.3ml) was cooled to -55 to -60° C. and methanesulphonyl chloride (0.0081ml) was added. The mixture was stirred at the same temperature for 0.5h and then a solution of 4-methoxybenzyl (6R,7R)-7-amino-3-[(2S,5R)-5-methoxycarbonyltetrahydrofuran-2-yl]ceph-3-em-4-carboxylate (41mg) in dimethylformamide (0.3ml) was added followed by pyridine (0.0073ml). The mixture was then stored at 0° C. for 1h and then at room temperature for 0.5h. The reaction mixture was partitioned between ethyl acetate and aqueous citric acid solution and the organic phase washed with water and brine. The solution was dried over magnesium sulphate and evaporated, and the title compound (31mg) isolated by column chromatography of the residue (silica gel, ethyl acetate as eluent); vmax (CHCl3) 3496, 3397, 1784, 1733 and 1684cm-1.

reactant | 2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetic acid | 20.1mg | NC=1SC=C(N1)/C(/C(=O)O)=N/OC | C6H7N3O3S
reactant | N,N-diisopropylethylamine | 0.0176ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulphonyl chloride | 0.0081ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-methoxybenzyl (6R,7R)-7-amino-3-[(2S,5R)-5-methoxycarbonyltetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 41mg | N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2O[C@H](CC2)C(=O)OC)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C21H24N2O7S
solvent | dimethylformamide | 0.3ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.3ml | CN(C=O)C | C3H7NO
solvent | pyridine | 0.0073ml | N1=CC=CC=C1 | C5H5N
product | 4-Methoxybenzyl (6R,7R)-3-[(2S,5R)-5-methoxycarbonyltetrahydrofuran-2-yl]-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]ceph-3-em-4-carboxylate | 31mg | COC(=O)[C@H]1CC[C@H](O1)C=1CS[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)OC)C([C@H]2NC(\C(=N/OC)\C=2N=C(SC2)N)=O)=O | C27H29N5O9S2
